US06403610B1
0.46 cm3 of thionyl chloride was added dropwise to a solution of 1 g of methyl (3R,4R)-1-(3-phenylpropyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)-propyl]piperidine-3-carboxylate in 15 cm3 of chloroform while maintaining the temperature at 0° C. The reaction mixture was allowed to return to a temperature in the region of 20° C. with stirring over 2 hours. The reaction mixture was subsequently concentrated under reduced pressure (5 kPa) at a temperature in the region of 50° C. The residue was dissolved in 30 cm3 of distilled water and the aqueous phase was washed with 15 cm3 of dichloromethane, then basified to pH 9 with solid potassium carbonate and, finally, extracted with 3 times 20 cm3 of dichloromethane. The organic phases were combined, washed with 2 times 20 cm3 of distilled water, and dried over magnesium sulfate. After filtering and then concentrating under reduced pressure (5 kPa) at a temperature in the region of 45° C., 1.16 g of methyl (3R,4R)-1-(3-phenylpropyl)-4-[3-(R,S)-chloro-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate were obtained in the form of a brown oil.

reactant | thionyl chloride | 0.46 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | methyl (3R,4R)-1-(3-phenylpropyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)-propyl]piperidine-3-carboxylate | 1 g | C1(=CC=CC=C1)CCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)O)C(=O)OC | C29H36N2O4
solvent | chloroform | 15 cm3 | C(Cl)(Cl)Cl | CHCl3
product | methyl (3R,4R)-1-(3-phenylpropyl)-4-[3-(R,S)-chloro-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 1.16 g | C1(=CC=CC=C1)CCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)Cl)C(=O)OC | C29H35ClN2O3
